US07253192B2
G] Methanesulfonic acid 5-(4-trifluoromethoxy-phenyl)-pent-4-ynyl ester
To an ice-cooled solution of 2.02 g (8.3 mmol) of 5-(4-trifluoromethoxy-phenyl)-pent-4-yn-1-ol and 1.73 ml (12.4 mmol) of Et3N in 100 ml of dichloromethane were added 0.67 ml (8.7 mmol) of methanesulfonyl chloride under stirring within 15 min keeping the temperature at 0-10° C. The reaction mixture was stirred at RT for 1 h 15 min. Water was added and after 5 min, the reaction was then partitioned between ether and water. The water was extracted again with ether (two times), the organic phases were washed with aqueous 10% NaCl, dried (Na2SO4) and concentrated to yield 2.50 g of the title compound as light brown oil.

reactant | 5-(4-trifluoromethoxy-phenyl)-pent-4-yn-1-ol | 8.3 mmol, 2.02 g | FC(OC1=CC=C(C=C1)C#CCCCO)(F)F | C12H11F3O2
reactant | Et3N | 12.4 mmol, 1.73 ml | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 8.7 mmol, 0.67 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Methanesulfonic acid 5-(4-trifluoromethoxy-phenyl)-pent-4-ynyl ester | 2.50 g | FC(OC1=CC=C(C=C1)C#CCCCOS(=O)(=O)C)(F)F | C13H13F3O4S
